US07932262B2
Step 2. 6-Bromo-2-(4-morpholinophenylamino)quinazolin-7-ol
A 0.32M suspension of 6-bromo-7-methoxy-N-(4-morpholinophenyl)quinazolin-2-amine (1.0 eq) and sodium thiomethoxide (4.0 eq) in DMF was heated to 80° C. in an oil bath for 12 h. LCMS data indicated the reaction was complete. The mixture was partitioned between ethyl acetate and water. The insoluble solid was filtered off and was rinsed with ether and air dried to give product. ES/MS m/z 401/403 (MH+).

reactant | 6-bromo-7-methoxy-N-(4-morpholinophenyl)quinazolin-2-amine | 1.0 eq | BrC=1C=C2C=NC(=NC2=CC1OC)NC1=CC=C(C=C1)N1CCOCC1 | C19H19BrN4O2
reactant | sodium thiomethoxide | 4.0 eq | C[S-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Bromo-2-(4-morpholinophenylamino)quinazolin-7-ol | BrC=1C=C2C=NC(=NC2=CC1O)NC1=CC=C(C=C1)N1CCOCC1 | C18H17BrN4O2
